US06069156
To a stirred solution of 1-(2-chlorobenzyl)-3-formylindole-6-carboxamide (47 mg) in dimethylformamide (1.6 ml) was added chromic anhydride (125 mg) and sulfuric acid (0.05 ml), and the mixture was stirred at 20° C. for 5 hours. The resulting mixture was evaporated in vacuo and the residue was chromatographed on silica gel eluting with a mixture of chloroform and methanol (9:1) to give 6-carbamoyl-1-(2-chlorobenzyl)indole-3-carboxylic acid (8.3 mg) as a solid.

reactant | 1-(2-chlorobenzyl)-3-formylindole-6-carboxamide | 47 mg | ClC1=C(CN2C=C(C3=CC=C(C=C23)C(=O)N)C=O)C=CC=C1 | C17H13ClN2O2
reactant | sulfuric acid | 0.05 ml | S(O)(O)(=O)=O | H2O4S
solvent | dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | 6-carbamoyl-1-(2-chlorobenzyl)indole-3-carboxylic acid | 8.3 mg | C(N)(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=CC=C1)Cl)C(=O)O | C17H13ClN2O3
